US07691929B2
Under a nitrogen atmosphere, a solution of 98.5% sulfuryl chloride (10.0 mL, 121 mmol) in 40 mL of dichloromethane is added dropwise at 0° C. to a solution of cyclohexylamine (30.0 g, 303 mmol) and triethylamine (84 mL, 606 mmol) in 150 mL of dichloromethane. The reaction mixture is stirred 4 hours at 0° C., neutralized with water, and diluted in dichloromethane (300 mL). The organic components are successively washed with diluted hydrochloric aqueous solution, NaHCO3 aqueous solution and brine, dried (Na2SO4), and concentrated under reduced pressure. The residue is suspended in ether, filtered through Büchner, and the precipitate is washed two times with 100 ml of ether to yield white crystals of N,N′-bis(cyclohexyl)sulfamide (14.0 g, 45%).

reactant | sulfuryl chloride | 121 mmol, 10.0 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | cyclohexylamine | 303 mmol, 30.0 g | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 606 mmol, 84 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N,N′-bis(cyclohexyl)sulfamide | 14.0 g, 45% | C1(CCCCC1)NS(=O)(=O)NC1CCCCC1 | C12H24N2O2S
